US07273879B2
Into 3 ml of N,N-dimethylformamide were dissolved 243 mg of 5-chloro-3-benzylthio-1,2,4-thiadiazole and 108 mg of benzyl alcohol, 48 mg of sodium hydride (60% in oil) was added thereto under ice-cooling, and the reaction mixture was stirred for 1 hour under ice-cooling and for 17 hours at room temperature. The reaction mixture was added to saturated sodium chloride aqueous solution, and extracted with t-butyl methyl ether. The organic layer was concentrated, and the residue obtained was subjected to silica gel column chromatography to give 146 mg of 5-benzyloxy-3-benzylthio-1,2,4-thiadiazole (hereinafter, referred to as the present compound (31)).

reactant | 5-chloro-3-benzylthio-1,2,4-thiadiazole | 243 mg | ClC1=NC(=NS1)SCC1=CC=CC=C1 | C9H7ClN2S2
reactant | benzyl alcohol | 108 mg | C(C1=CC=CC=C1)O | C7H8O
reactant | sodium hydride | 48 mg | [H-].[Na+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 5-benzyloxy-3-benzylthio-1,2,4-thiadiazole | 146 mg | C(C1=CC=CC=C1)OC1=NC(=NS1)SCC1=CC=CC=C1 | C16H14N2OS2
